US06638926B2
(5-Hydroxymethyl-2H-pyrazol-3-yl)-(2-phenyl-quinazolin-4-yl)-amine (III-74)
A solution of (5-Methoxycarbonyl-2H-pyrazol-3-yl)-(2-phenyl-quinazolin-4-yl)-amine (III-73) (345 mg, 1 mmol) in anhydrous THF (10 mL) was treated with lithium borohydride (125 mg, 5.75 mmol) at 65° C. for 5 hours. The mixture was cooled to room temperature then combined with 2M HCl and ethyl acetate. Solid sodium hydrogen carbonate was added to achieve pH 8 and the resulting mixture extracted with ethyl acetate. The extracts were dried over magnesium sulphate and concentrated. Purification by flash chromatography (Sio2, methanol-dichloromethane gradient) afforded III-74 (95 mg, 30%) as an off-white solid: mp 238-239° C.; 1H NMR (DMSO) δ4.58 (2H, d, CH2), 5.35 (1H, s, OH), 6.94 (1H, s), 7.50-7.60 (4H, m), 7.85-7.90 (2H, m), 8.48-8.54 (2H, m), 8.69 (1H, 1H), 10.40 (1H, s), 12.48 (1H, s); IR (solid) 1652, 1621, 1603, 1575, 1558, 1539, 1532, 1480, 1373, 1320, 1276, 1175, 1057, 1037, 1007, 951, 865, 843, 793, 780, 7124; MS 318.2(M+H)+.

reactant | (5-Methoxycarbonyl-2H-pyrazol-3-yl)-(2-phenyl-quinazolin-4-yl)-amine | 1 mmol, 345 mg | COC(=O)C=1C=C(NN1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C19H15N5O2
reactant | lithium borohydride | 5.75 mmol, 125 mg | [BH4-].[Li+]
reactant | HCl | 2M | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Hydroxymethyl-2H-pyrazol-3-yl)-(2-phenyl-quinazolin-4-yl)-amine | OCC=1C=C(NN1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C18H15N5O
